US04148909
7-Benzyloxy-2,2-dimethyl-4-(4-trifluoromethylphenyl)-2H-chromene
n-Butyl-lithium (142 ml of a 2.4 M solution) was added under dry nitrogen to a solution of 4-bromobenzotrifluoride (76.5 g) in dry ether at -50° C. The mixture was left to stir for 2 hours. 7-Benzyloxy-2,2-dimethylchroman-4-one (64 g) in dry ether was added dropwise. Water was added and the ether layer washed with 5 N.HCl (2×100 ml), and dried (MgSO4). Removal of the solvent under reduced pressure gave an oil (84 g) which was chromatographed on alumina. Elution with petrolether (1:1) gave the title compound (52 g).

reactant | n-Butyl-lithium | C(CCC)[Li]
reactant | 4-bromobenzotrifluoride | 76.5 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 7-Benzyloxy-2,2-dimethylchroman-4-one | 64 g | C(C1=CC=CC=C1)OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C18H18O3
reactant | Water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 7-Benzyloxy-2,2-dimethyl-4-(4-trifluoromethylphenyl)-2H-chromene | 84 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1)(C)C)C1=CC=C(C=C1)C(F)(F)F | C25H21F3O2
